data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_156670_0,[C:1]([C:5]([C:6]([C:2]([H:12])([H:13])[H:14])=[C:7]([C:3]([H:16])([H:17])[H:18])[C:4]([H:15])([H:19])[H:20])=[O:8])([H:9])([H:10])[H:11]>>[C:1]([C:5]1=[C:6]([C:2]([H:12])([H:13])[H:14])[C:7]([C:3]([H:16])([H:17])[H:18])([C:4]([H:15])([H:19])[H:20])[O:8]1)([H:9])([H:10])[H:11],44.19356999999536
MR_312281_1,[C:1](/[C:2]([N:4]([H:10])[H:11])=[N:6]/[N:3]([H:8])[H:9])([O:5][H:7])([H:12])[H:13]>>[C:1]1([H:12])([H:13])[C@:2]([N:4]([H:10])[H:11])([N:6]([N:3]([H:8])[H:9])[H:7])[O:5]1,33.39492250000802
MR_7993_1,[C:1]([N:5]([C:6]([C:2]([H:14])([H:15])[H:16])=[C:7]([C:3]([H:17])([H:18])[H:21])[C:4]([H:19])([H:20])[H:22])[N:8]([H:9])[H:10])([H:11])([H:12])[H:13]>>[C:1]([C:7]([C:3]([H:17])([H:18])[H:21])([C:4]([H:19])([H:20])[H:22])/[C:6]([C:2]([H:14])([H:15])[H:16])=[N:5]/[N:8]([H:9])[H:10])([H:11])([H:12])[H:13],71.64481249999298
MR_434776_0,[C:1]([C:4]([C:2]([H:12])([H:13])[H:14])=[C:3]([O:5][H:8])/[N:6]=[N:7]\[H:9])([H:10])([H:11])[H:15]>>[C:1]([C:4]1([C:2]([H:12])([H:13])[H:14])[C:3]([O:5][H:8])=[N:6][N:7]1[H:9])([H:10])([H:11])[H:15],42.37695749998053
MR_470131_0,[C:1]12([H:10])[N:5]([H:9])[C:6]1([C:3]([H:12])([H:13])[H:14])[C:7]2([C:2](=[O:8])[H:11])[C:4]([H:15])([H:16])[H:17]>>[C:1]12([H:10])[C:2]([H:11])([C:7]([C:4]([H:15])([H:16])[H:17])=[C:6]([C:3]([H:12])([H:13])[H:14])[N:5]1[H:9])[O:8]2,39.5425400000029
MR_141253_1,[C:1]([C:2](/[C:4](=[C:5](\[N:3]([H:7])[H:8])[H:10])[H:9])=[O:6])([H:11])([H:12])[H:13]>>[C:1]([C:2]1=[C:4]([H:9])[C:5]([N:3]([H:7])[H:8])([H:10])[O:6]1)([H:11])([H:12])[H:13],48.12548499998428
MR_487808_1,[C:1]([N:4]([C:2]([H:15])([H:16])[H:17])[C:6](=[O:9])[H:11])(/[C:5]([C:3]([H:18])([H:19])[H:20])=[C:7](\[O:8][H:10])[H:14])([H:12])[H:13]>>[C:1]1([H:12])([H:13])[N:4]([C:2]([H:15])([H:16])[H:17])[C@:5]1([C:3]([H:18])([H:19])[H:20])[C@:7]([C:6](=[O:9])[H:11])([O:8][H:10])[H:14],66.50056750003301
MR_528206_1,[C:1]([C:2](/[C:3]([N:4]([H:12])[H:13])=[C:5](\[N:8][H:14])[H:15])[O:7][H:11])([O:6][H:10])=[O:9]>>[C:1](/[C:3](=[C:2]([C:5](=[N:8]\[H:14])/[H:15])\[O:7][H:11])[N:4]([H:12])[H:13])([O:6][H:10])=[O:9],69.88655750000916
MR_308721_2,[C:1]1([C:4]([H:13])([H:14])[H:15])([O:7][N:6]([H:9])[H:10])[C:2]([C:5]([H:16])([H:17])[H:18])([H:8])[C:3]1([H:11])[H:12]>>[C:1]([C:2]([C:5]([H:16])([H:17])[H:18])([O:7][N:6]([H:9])[H:10])[H:8])(=[C:3]([H:11])[H:12])[C:4]([H:13])([H:14])[H:15],65.42628750003445
MR_174619_1,[C:1](/[N:2]=[N:5]/[H:13])([C:3]([O:6][H:8])([N:7]([N:4]([H:10])[H:11])[H:12])[H:9])([H:14])[H:15]>>[C:1]([N:2]([N:5]([H:12])[H:13])[H:9])(/[C:3]([O:6][H:8])=[N:7]/[N:4]([H:10])[H:11])([H:14])[H:15],60.339772500035735
MR_37915_0,[C:1]1([C:3]([N:7]([C:6]([H:20])([H:21])[H:22])[H:9])([H:13])[H:14])([C:5]([H:17])([H:18])[H:19])[C:2]([N:8]([H:11])[H:12])([H:10])[C:4]1([H:15])[H:16]>>[C:1](=[C:3]([H:13])[H:14])([C:4]([C:2]([N:7]([C:6]([H:20])([H:21])[H:22])[H:9])([N:8]([H:11])[H:12])[H:10])([H:15])[H:16])[C:5]([H:17])([H:18])[H:19],57.23615749998871
MR_325221_0,[C:1]([N:4]([C:2]([H:12])([H:14])[H:15])[O:6][H:8])([N:5]([C:3]([H:13])([H:16])[H:17])[O:7][H:9])([H:10])[H:11]>>[C:1]([N:4]([C:2]([H:12])([H:14])[H:15])[N:5]([C:3]([H:13])([H:16])[H:17])[O:7][H:9])([O:6][H:8])([H:10])[H:11],71.49986000000226
MR_288964_1,[C:1]1([O:8][H:10])([H:13])[N:3]([H:11])[C:5](=[O:9])[C:6]1([C:2]([H:15])([H:16])[H:17])/[C:7](=[N:4]/[H:12])[H:14]>>[C:1]1([O:8][H:10])([H:13])[N:3]([H:11])[C:5](=[O:9])[N:4]([H:12])[C:7]([H:14])=[C:6]1[C:2]([H:15])([H:16])[H:17],49.7620049999901
MR_670513_0,[C:1]([N:5]([H:11])[H:12])([C:6](=[C:4]([C:2]([H:16])([H:17])[H:18])[C:3]([H:14])([H:15])[H:19])[H:13])([O:7][O:8][H:9])[H:10]>>[C:1]1([N:5]([H:11])[H:12])([H:10])[C:4]([C:2]([H:16])([H:17])[H:18])([C:3]([H:14])([H:15])[H:19])[C:6]1([O:7][O:8][H:9])[H:13],58.638619999979085
MR_53066_0,[C:1]([C:3]([O:6][C:4]([C:2]([H:11])([H:12])[H:13])=[C:5]([H:14])[H:15])=[O:7])([H:8])([H:9])[H:10]>>[C:1]([C:3](=[O:6])[O:7][C:4]([C:2]([H:11])([H:12])[H:13])=[C:5]([H:14])[H:15])([H:8])([H:9])[H:10],44.91331249999732
MR_396542_0,[C:1]([C:2]([C:5]([C:3]([C:4]([H:19])([H:20])[H:21])([H:17])[H:18])([O:9][H:13])[O:10][H:12])([N:6]([H:15])[H:16])[H:14])([O:7][H:11])=[O:8]>>[C:1]([C:2]([C:5]([O:9][H:13])=[O:10])([N:6]([H:15])[H:16])[H:14])([C:3]([C:4]([H:19])([H:20])[H:21])([H:17])[H:18])([O:7][H:11])[O:8][H:12],72.54339249997145
MR_109436_1,[C:1]1([C:3]([H:14])([H:15])[H:16])([H:10])[C:6]([C:5]([C:4]([H:17])([H:18])[H:19])=[O:9])([O:8][C:2]([H:11])([H:12])[H:13])[C:7]1([H:20])[H:21]>>[C:1]([C:3]([H:14])([H:15])[H:16])([C:6]([C:5]([C:4]([H:17])([H:18])[H:19])=[O:9])=[C:7]([H:20])[H:21])([O:8][C:2]([H:11])([H:12])[H:13])[H:10],69.95056249995457
MR_195152_0,[C:1]([C:2]([C:4]([H:19])([H:20])[H:21])=[O:8])([C:3]([H:16])([H:17])[H:18])([C:5]([N:7]([H:14])[H:15])([O:9][H:10])[H:11])[N:6]([H:12])[H:13]>>[C:1]([C:2]([C:4]([H:19])([H:20])[H:21])([O:8][H:10])[H:11])([C:3]([H:16])([H:17])[H:18])([C:5]([N:7]([H:14])[H:15])=[O:9])[N:6]([H:12])[H:13],47.23757249997888
